US09056874B2
(±)-5-Chloro-7-methyl-4-(((tetrahydro-2H-pyran-2-yl)oxy)methyl)-1H-indole
To a suspension of vinylmagnesium bromide (1M in THF, 200 mL, 200 mmol) was added dropwise (±)-2-((2-chloro-4-methyl-5-nitrobenzyl)oxy)tetrahydro-2H-pyran (14 g, 49.0 mmol) in THF (40 mL) below −20° C. After completion of the addition, the flask was removed from the ice bath with stirring. After 2 h, the reaction mixture was cooled to below −20° C. The reaction was quenched with MeOH with maintaining the temperature below 0° C. The mixture was diluted with CH2Cl2 and H2O. The mixture was filtered through Celite®. The Celite® cake was washed with CH2Cl2. The layers were separated and the organic phase was washed with H2O and brine, dried over Na2SO4, and then filtered. Concentration of the filtrate gave the title compound, which was used in the next reaction without any further purification. For an analytical purpose, the crude was purified by SiO2 column chromatography [heptane/(30% EtOAc in CH2Cl2)]=69/31] to afford the title compound. 1H NMR (400 MHz, ACETONITRILE-d3) δ 9.43 (br. s., 1H), 7.29-7.36 (m, 1H), 6.99 (s, 1H), 6.58-6.70 (m, 1H), 5.05 (d, J=11.12 Hz, 1H), 4.84 (d, J=11.10 Hz, 1H), 4.67-4.77 (m, 1H), 3.89-4.03 (m, 1H), 3.46-3.60 (m, 1H), 2.47 (s, 3H), 1.59-1.75 (m, 2H), 1.43-1.59 (m, 4H)

reactant | vinylmagnesium bromide | 200 mmol, 1M, 200 mL | C(=C)[Mg]Br
reactant | (±)-2-((2-chloro-4-methyl-5-nitrobenzyl)oxy)tetrahydro-2H-pyran | 49.0 mmol, 14 g | ClC1=C(COC2OCCCC2)C=C(C(=C1)C)[N+](=O)[O-] | C13H16ClNO4
solvent | THF | 40 mL | C1CCOC1 | C4H8O
product | (±)-5-Chloro-7-methyl-4-(((tetrahydro-2H-pyran-2-yl)oxy)methyl)-1H-indole | ClC=1C(=C2C=CNC2=C(C1)C)COC1OCCCC1 | C15H18ClNO2
